US04732985
1-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2,3-dihydroxypropane hemihydrate
A solution of 4-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxymethyl}-2,2-dimethyl-1,3-dioxolane (5.9 g) in 60% aqueous acetic acid was stirred at room temperature for 27 hours and then evaporated. The residue was partitioned between ethyl acetate and water and the organic layer was washed with water, dried over Na2SO4 and evaporated. The residue was purified by chromatography on SiO2 (60 g) using toluene plus 0-100% ethyl acetate as the eluant. Appropriate fractions were combined and evaporated and the residue crystallised from ether to give the title compound (2.3 g) as a hemihydrate, m.p. 115°-120° C.

reactant | 4-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxymethyl}-2,2-dimethyl-1,3-dioxolane | 5.9 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC1OC(OC1)(C)C)C(=O)OCC | C24H29Cl2NO7
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2,3-dihydroxypropane hemihydrate | 2.3 g | O.ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC(CO)O)C(=O)OCC.ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC(CO)O)C(=O)OCC | InChI=1S/2C21H25Cl2NO7.H2O/c2*1-4-31-21(28)18-15(10-30-9-12(26)8-25)24-11(2)16(20(27)29-3)17(18)13-6-5-7-14(22)19(13)23;/h2*5-7,12,17,24-26H,4,8-10H2,1-3H3;1H2
